US04839369
2-(4-(Phenoxymethyl)phenoxymethyl)quinoline
A mixture of 5.0 g (0.025 mol) 4-phenoxymethylphenol, 5.35 g (0.025 mol) 2-chloromethylquinoline hydrochloride and 30 ml (2N, NaOH) in 50 ml DMF and 100 ml THF was stirred at 60° C. bath temperature for a period of 3 hours. The reaction mixture was poured into wast and extracted with ether. The ether extract was washed with water, dried and concentrated to dryness to obtain solid. Recrystallization from acetonitrile yielded (2.0 g) product, m.p. 100°-111° C.

reactant | 4-phenoxymethylphenol | 0.025 mol, 5.0 g | O(C1=CC=CC=C1)CC1=CC=C(C=C1)O | C13H12O2
reactant | 2-chloromethylquinoline hydrochloride | 0.025 mol, 5.35 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | NaOH | [OH-].[Na+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(4-(Phenoxymethyl)phenoxymethyl)quinoline | 2.0 g | O(C1=CC=CC=C1)CC1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C23H19NO2
